US05710171
Step 1: Preparation of 4-(phenylthio)aniline
The titled compound was prepared from 4-fluoronitrobenzene and thiophenol using the procedures in Steps 1 and 2 of Example 8.

reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | 4-(phenylthio)aniline | C1(=CC=CC=C1)SC1=CC=C(N)C=C1 | C12H11NS
